US08076491B2
4-((N-(4-fluorobenzyl)-1-phenylmethylsulfonamido)methyl)-cyclohexanecarboxylic acid
Prepared as in example 5-10 from phenylmethanesulfonyl chloride and methyl 4-(aminomethyl)cyclohexanecarboxylate and 1-(bromomethyl)-4-fluorobenzene. MS (M−H, 418); 1NMR (400 MHz, DMSO-d6): δ, ppm: 0.639 (m, 2H), 0.897 (m, 2H), 1.034 (m, 1H), 1.467 (d, broad, 2H, J=11.2 Hz), 1.709 (d, broad, 2H, J=11.2 Hz), 1.961 (m, 1H), 2.828 (d, 2H, J=7.6 Hz), 4.207 (s, 2H), 4.449 (s, 2H), 7.155 (t, 2H, J=9.2 Hz), 7.377 (m, 7H), 12 (s, broad, 1H)

reactant | phenylmethanesulfonyl chloride | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | methyl 4-(aminomethyl)cyclohexanecarboxylate | NCC1CCC(CC1)C(=O)OC | C9H17NO2
reactant | 1-(bromomethyl)-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | 4-((N-(4-fluorobenzyl)-1-phenylmethylsulfonamido)methyl)-cyclohexanecarboxylic acid | FC1=CC=C(CN(S(=O)(=O)CC2=CC=CC=C2)CC2CCC(CC2)C(=O)O)C=C1 | C22H26FNO4S
